US06472396B1
e) Preparation of 5-[3-(Tertbutyldimethylsilyloxy)phenyl]-5-bromobarbituric Acid
A mixture of 5-[3-(tertbutyldimethylsilyloxy)phenyl]barbituric Acid (680 mg), N-bromosuccinimide (432 mg) and dibenzoyl peroxide (catalytic amount) in 10 ml of carbon tetrachloride are stirred at room temperature for 1 hour. The solvent is evaporated off and the residue is purified by silica gel chromatography (eluent:ethyl acetate/hexane 7:3) to give 550 mg of the product, m.p. 170-172° C.

reactant | 5-[3-(tertbutyldimethylsilyloxy)phenyl]barbituric Acid | 680 mg | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C1C(NC(NC1=O)=O)=O)(C)C | C16H22N2O4Si
reactant | N-bromosuccinimide | 432 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-[3-(Tertbutyldimethylsilyloxy)phenyl]-5-bromobarbituric Acid | 550 mg | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C1(C(NC(NC1=O)=O)=O)Br)(C)C | C16H21BrN2O4Si
